US07897597B2
A mixture of 2-({7-benzyloxy-4-[(2-hydroxy-2-methylpropyl)amino]quinolin-3-yl}amino)-2-oxoethyl acetate hydrochloride (54.0 g, 0.114 mol) in methanol (270 mL) was heated to 55° C., at which point a solution was obtained. A solution of sodium hydroxide (9.2 g, 0.23 mol) in water (90 mL) was then added over a period of five minutes while heating the reaction mixture at reflux. Following the addition, the addition funnel was rinsed with water (10 mL), and the reaction mixture was heated at reflux for one hour. The reaction mixture was then cooled to ˜0° C., and the solid product was isolated by filtration, washed with methanol, deionized water, and a small volume of acetone, and dried under vacuum at 50° C. to provide 42.1 g of 1-[7-benzyloxy-2-(hydroxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol as an off-white solid.

reactant | 2-({7-benzyloxy-4-[(2-hydroxy-2-methylpropyl)amino]quinolin-3-yl}amino)-2-oxoethyl acetate hydrochloride | 0.114 mol, 54.0 g | Cl.C(C)(=O)OCC(=O)NC=1C=NC2=CC(=CC=C2C1NCC(C)(C)O)OCC1=CC=CC=C1
reactant | sodium hydroxide | 0.23 mol, 9.2 g | [OH-].[Na+]
solvent | methanol | 270 mL | CO | CH4O
solvent | water | 90 mL | O | H2O
product | 1-[7-benzyloxy-2-(hydroxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol | 42.1 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)(O)C)CO | C22H23N3O3
